US07582629B2
2-Ethyl-4-[(4-morpholin-4-ylphenyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
A solution of 4-chloro-2-ethyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.217 g, 0.80 mmol) and 4-morpholinoaniline (0.285 g, 1.60 mmol) in DMF (2.0 mL) was heated at 110° C. for 15 mins in a microwave reactor. The mixture was purified by preparative HPLC (C8 50×250, 0.1M NH4OAc/MeCN, gradient) which gave impure product. Repurification was done by preparative HPLC (C8 50×250, 0.1M NMR OAc/MeCN, 50% MeCN isocratic) to give the title compound (0.096 g, 29%) as a solid; 1H NMR (500 MHz, CDCl3): δ 7.22-7.16 (m 1H), 7.12-7.09 (m, 4H), 6.62-6.57 (m 2H), 6.52-6.48 (m, 2H), 3.84 (q, 2H), 3.81-3.78 (m, 4H), 2.99-2.95 (m, 4H), 1.47 (t 3H); 13C NMR (500 MHz, CDCl3): δ 159.4, 149.2, 131.5, 129.5, 128.9, 128.4, 128.1, 125.1, 123.6, 115.6, 109.8, 66.9, 49.7, 35.6, 14.0; Mass Spectrum: M−H+ 414.

reactant | 4-chloro-2-ethyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.80 mmol, 0.217 g | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CC)=O | C11H10ClNO3S
reactant | 4-morpholinoaniline | 1.60 mmol, 0.285 g | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 2-Ethyl-4-[(4-morpholin-4-ylphenyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.096 g, 29% | C(C)N1S(C(=C(C1=O)NC1=CC=C(C=C1)N1CCOCC1)C1=CC=CC=C1)(=O)=O | C21H23N3O4S
